US06803378B2
Step 1: Preparation of (+)-2,2-Dimethyl-5-oxo-1,3-dioxolane-4-acetic acid, tert-butyldimethylsilyl ester (V):
A solution of (S)-(+)-2,2-dimethyl-5-oxo-1,3-dioxolane-4-acetic acid (13.20 g, 75.8 mmol), which was derived from L-malic acid by means known in the art, in N,N-dimethylformamide (25 ml) was treated at 22° C. with imidazole (10.56 g, 0.155 mmol) followed by tert-butyldimethylsilyl chloride (12.0 g, 79.6 mmol) and the resulting mixture was stirred at 22° C. for 18 h. The reaction mixture was then diluted with toluene (500 ml), washed with water (×3), saturated sodium bicarbonate and brine. After drying (magnesium sulfate), the solvent was evaporated under reduced pressure to give an oil. Distillation under vacuum gave 20.9 g (96%) of the title material as a clear oil: Bp 80-90° C./0.1 torr (bulb to bulb distillation, air bath temperature). 1H NMR (400 MHz, CDCl3) δ: 0.33 (s, 3), 0.36 (s, 3), 1.00 (s, 9), 1.11 (s, 3), 1.37 (s, 3), 2.72 (m, 2), 4.35 (dd, 1, J=4, 6).

reactant | (S)-(+)-2,2-dimethyl-5-oxo-1,3-dioxolane-4-acetic acid | 75.8 mmol, 13.20 g | CC1(OC([C@@H](O1)CC(=O)O)=O)C | C7H10O5
reactant | L-malic acid | C([C@@H](O)CC(=O)O)(=O)O | C4H6O5
reactant | imidazole | 0.155 mmol, 10.56 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 79.6 mmol, 12.0 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | (+)-2,2-Dimethyl-5-oxo-1,3-dioxolane-4-acetic acid, tert-butyldimethylsilyl ester | 20.9 g, 96% | CC1(OC(C(O1)CC(=O)O[Si](C)(C)C(C)(C)C)=O)C | C13H24O5Si
